US05206240
N-(4-Acetyl-3-hydroxy-2-nitrophenyl)acetamide
A mixture of N-(4-acetyl-3-hydroxyphenyl)acetamide (9.66 g, 50 mmol) and acetic anhydride (14.2 ml, 15.3 g, 150 mmol) in dichloromethane (150 ml) was cooled to 5° C. and nitric acid (90%, d 1.49, 4.70 ml, 7.00 g, 100 mmol) was added dropwise. The mixture was stirred at room temperature for 1 hour, poured into water (150 ml) and extracted with dichloromethane (3×150 ml). The combined organic fractions were dried (Na2SO4) and evaporated under reduced pressure and the residue was purified by repeated flash column chromatography on silica gel, eluting with hexane/30% ethyl acetate then hexane/50% ethyl acetate. The first isomer to elute was N-(4-acetyl-5-hydroxy-2-nitrophenyl)acetamide as a yellow solid (3.87 g, 33%).

reactant | N-(4-acetyl-3-hydroxyphenyl)acetamide | 50 mmol, 9.66 g | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)O | C10H11NO3
reactant | acetic anhydride | 150 mmol, 14.2 ml, 15.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 100 mmol, 4.70 ml, 7.00 g | [N+](=O)(O)[O-] | HNO3
reactant | water | 150 ml | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-(4-Acetyl-3-hydroxy-2-nitrophenyl)acetamide | C(C)(=O)C1=C(C(=C(C=C1)NC(C)=O)[N+](=O)[O-])O | C10H10N2O5
